US06344576B1
Erucoyl-1,3-propanediol
1,3-Propanediol, 153 g (MW 76.1; 2 mol) is dissolved in 1 l of THF and, after addition of 60 g of triethylamine (MW 101.2, 0.6 mol) and 7.3 g of 4-dimethylaminopyridine (MW 122.2, 0.06 mol), equilibrated at 200° C. in a water bath. While stirring continuously, 178 g of erucoyl chloride (MW 357.0; 0.5 mol) in 500 ml of THF are slowly added dropwise so that the temperature in the reaction mixture does not exceed 30° C. The dropwise addition is followed by warming at 30° C. for 30 minutes and then addition of 1.5 1 of diisopropyl ether and 1.5 1 of 1N HCl. After vigorous shaking and phase separation, the upper ether phase is washed once again with 1% NaCl solution and evaporated in vacuo at 45° C. The residue is taken up in 2 l of hexane and cooled to −20° C. The white crystals are filtered off with suction and dried in vacuo. The yield of pure erucoyl-1,3-propanediol is 123 g (MW 396.7; 62%). The substance is pure by thin-layer chromatography (Rf value 0.3 in ether/pentane/acetic acid 200/200/2 parts by volume).

reactant | 1,3-Propanediol | C(CCO)O | C3H8O2
reactant | triethylamine | 0.6 mol, 60 g | C(C)N(CC)CC | C6H15N
reactant | erucoyl chloride | 0.5 mol, 178 g | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)Cl | C22H41ClO
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 l | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.06 mol, 7.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | Erucoyl-1,3-propanediol | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)C(CCO)O | C25H48O3
